US08470884B2
A solution of [4-(3-amino-1-methylene-propyl)-6-fluoro-3-methyl-naphthalen-2-yl]-acetic acid methyl ester (120 mg, 0.398 mmol) in THF (4 mL) was cooled to 0° C. and the solid 2-chlorobenzene-1-sulfonyl chloride (168 mg, 0.796 mmol) was added followed by N,N-diisopropylethylamine (154 mg, 209 μL, 1.19 mmol). After stirring for 2 hours at 0° C., the cooling bath was removed and the reaction mixture was warmed to room temperature. The reaction mixture was stirred at room temperature for 15 hours, then diluted with water and brine. The resulting mixture was extracted with ethyl acetate (2×50 mL). The combined organic layers were dried over MgSO4, filtered, and concentrated to afford a viscous oil. Flash chromatography (40 g ISCO column, 100% hexanes ramped to 50% ethyl acetate in hexanes) provided {4-[3-(2-chloro-benzenesulfonylamino)-1-methylene-propyl]-6-fluoro-3-methyl-naphthalen-2-yl}-acetic acid methyl ester as a viscous oil. 1H NMR (400 MHz, CDCl3) δ ppm 8.04-8.07 (m, 1H), 7.74 (dd, J=9.00, 5.80 Hz, 1H), 7.62 (s, 1H), 7.49-7.54 (m, 2H), 7.40 (dd, J=7.65, 2.89 Hz, 1H), 7.32 (dd, J=11.20, 2.60 Hz, 1H), 7.19 (td, J=8.60, 2.40 Hz, 1H), 5.52 (q, J=1.40 Hz, 1H), 5.08-5.10 (m, 1H), 5.03 (t, J=6.40 Hz, 1H), 3.80 (s, 2H), 3.73 (s, 3H), 3.09-3.16 (m, 2H), 2.51 (t, J=7.00 Hz, 2H), 2.31 (s, 3H). MS cald. for C24H24ClFNO4S [(M+H)+] 476.1, obsd. 476.1.

reactant | [4-(3-amino-1-methylene-propyl)-6-fluoro-3-methyl-naphthalen-2-yl]-acetic acid methyl ester | 0.398 mmol, 120 mg | COC(CC1=CC2=CC=C(C=C2C(=C1C)C(CCN)=C)F)=O | C18H20FNO2
reactant | 2-chlorobenzene-1-sulfonyl chloride | 0.796 mmol, 168 mg | ClC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | N,N-diisopropylethylamine | 1.19 mmol, 209 μL, 154 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | {4-[3-(2-chloro-benzenesulfonylamino)-1-methylene-propyl]-6-fluoro-3-methyl-naphthalen-2-yl}-acetic acid methyl ester | COC(CC1=CC2=CC=C(C=C2C(=C1C)C(CCNS(=O)(=O)C1=C(C=CC=C1)Cl)=C)F)=O | C24H23ClFNO4S
